US06235739B1
Using the same procedure as in Example 1 (3), 4,4-diethoxy-2-ethoxycarbonyl-3-[4-methoxy-3-(2-methylpropoxy)phenyl]butyric acid ethyl ester, instead of 3-(3,4-dimethoxyphenyl)-4,4-diethoxy-2-ethoxycarbonylbutyric acid ethyl ester, was used to obtain a light yellow solid of the above-described compound via 4,4-diethoxy-3-[4-methoxy-3-(2-methylpropoxy)phenyl]butyric acid (yield 48.6%).

reactant | 4,4-diethoxy-2-ethoxycarbonyl-3-[4-methoxy-3-(2-methylpropoxy)phenyl]butyric acid ethyl ester | C(C)OC(C(C(C(OCC)OCC)C1=CC(=C(C=C1)OC)OCC(C)C)C(=O)OCC)=O | C24H38O8
reactant | 3-(3,4-dimethoxyphenyl)-4,4-diethoxy-2-ethoxycarbonylbutyric acid ethyl ester | C(C)OC(C(C(C(OCC)OCC)C1=CC(=C(C=C1)OC)OC)C(=O)OCC)=O | C21H32O8
product | 4,4-diethoxy-3-[4-methoxy-3-(2-methylpropoxy)phenyl]butyric acid | yield 48.6% | C(C)OC(C(CC(=O)O)C1=CC(=C(C=C1)OC)OCC(C)C)OCC | C19H30O6
